US05556854
9.6 ml of methyl iodide were added dropwise at 40° C. over a period of 10 minutes, with stirring, to 40.7 g of 6-benzyl-3-methyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimidine-2,4-dione and 20.7 g of potassium carbonate in 230 ml of dimethylformamide. After heating for 8 hours at 60° C., the mixture was concentrated under reduced pressure, the residue was taken up with water, the pH was adjusted to 8 and the mixture was worked up by extraction with dichloromethane and water. After the combined dichloromethane phases had been concentrated under reduced pressure, the residue was purified by chromatography on silica gel with dichloromethane/ethanol (volume ratio 95:5) to give 16.5 g of 6-benzyl-1,3-dimethyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimi-dine-2,4-dione, from which 6-benzyl-1,3-dimethyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimidine-2,4-dione hydrochloride was obtained as a precipitate in diethyl ether with a solution of hydrochloric acid in ether. The product was recrystallized from methanol/diethyl ether and residual methanol was removed by the addition of water to the precipitate, concentration under reduced pressure and drying of the residue under high vacuum.

reactant | methyl iodide | 9.6 ml | CI | CH3I
reactant | 6-benzyl-3-methyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimidine-2,4-dione | 40.7 g | C(C1=CC=CC=C1)N1CC2=C(NC(N(C2=O)C)=O)CC1 | C15H17N3O2
reactant | potassium carbonate | 20.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 230 ml | CN(C=O)C | C3H7NO
product | 6-benzyl-1,3-dimethyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimi-dine-2,4-dione | 16.5 g | C(C1=CC=CC=C1)N1CC2=C(N(C(N(C2=O)C)=O)C)CC1 | C16H19N3O2
